US07589232B2
Step a) Formation of methyl (2E)-3-(4-cyanophenyl)acrylate
To a solution of 4-bromobenzonitrile (25 g, 0.136 mol) and methylacrylate (58.6 g, 0.682 mol) in dry DMF (250 mL) was added PPh3 (2.8 g, 0.0106 mol), Pd(OAc)2 (1.3 g, 0.00579 mol), sodium bicarbonate (18 g, 0.214 mol) and triethylamine (25 mL). The reaction mixture was heated to 100° C. for 16 h under nitrogen. The reaction mixture was cooled and the solid was filtered off. The filtrate was diluted with water (1 L) and the product was extracted with diethyl ether (4×200 ml). The combined organic layer was washed with water, brine, dried and evaporated to yield the crude product which was purified by chromatography (SiO2, PetEther/EtOAc (9.5/0.5) as eluent) to yield the title compound as a liquid (18 g, 71%). TLC: PetEther/EtOAc (9.5/0.5); Rf: 0.75

reactant | 4-bromobenzonitrile | 0.136 mol, 25 g | BrC1=CC=C(C#N)C=C1 | C7H4BrN
reactant | methylacrylate | 0.682 mol, 58.6 g | COC(C=C)=O | C4H6O2
reactant | PPh3 | 0.0106 mol, 2.8 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | sodium bicarbonate | 0.214 mol, 18 g | C([O-])(O)=O.[Na+]
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
catalyst | Pd(OAc)2 | 0.00579 mol, 1.3 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | triethylamine | 25 mL | C(C)N(CC)CC | C6H15N
product | methyl (2E)-3-(4-cyanophenyl)acrylate | 18 g, 71% | C(#N)C1=CC=C(C=C1)/C=C/C(=O)OC | C11H9NO2
